US04025638
A mixture of cyclohexanol (0.03 mol) in 75 ml. of dry dimethylformamide under nitrogen is agitated while 55% sodium hydride (0.03 mol) in oil is added portionwise. When evolution of hydrogen ceases 2-nitro-5-chloroaniline (0.025 mol) is added with stirring. The mixture is warmed at 75°-80° C. for 1 hour then poured onto 6 volumes of ice slurry. The separated product recrystallized from water to give red crystals of the nitroaminobiphenylether. After hydrogenation and reaction with carbomethoxycyanamide as described above the product, 5-cyclohexyloxy-2-carbomethoxyaminobenzimidazole is obtained.

reactant | cyclohexanol | 0.03 mol | C1(CCCCC1)O | C6H12O
reactant | sodium hydride | 0.03 mol | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-nitro-5-chloroaniline | 0.025 mol | [N+](=O)([O-])C1=C(N)C=C(C=C1)Cl | C6H5ClN2O2
reactant | carbomethoxycyanamide | C(=O)(OC)NC#N | C3H4N2O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-cyclohexyloxy-2-carbomethoxyaminobenzimidazole | C1(CCCCC1)OC1=CC2=C(N=C(N2)NC(=O)OC)C=C1 | C15H19N3O3
